US08629137B2
Step 1: 6-(2,6-dichloro-pyridine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one
3.00 g (14.3 mmol) 2,6-dichloropyridine-4-carboxylic acid chloride, 1.80 g (11.0 mmol) 4-methyl-3H-benzoxazol-2-one and 9.47 g (71.0 mmol) aluminium trichloride were combined and heated for 2 h to 125° C. with stirring. Then the mixture was decomposed with ice water and EtOAc and the phases were separated. The aqueous phase was extracted several times with EtOAc. The organic phases were combined, dried on sodium sulphate, filtered and the filtrate was evaporated down i. vac. The residue was triturated with diethyl ether, the precipitate was suction filtered and dried i. vac.

reactant | 2,6-dichloropyridine-4-carboxylic acid chloride | 14.3 mmol, 3.00 g | ClC1=NC(=CC(=C1)C(=O)Cl)Cl | C6H2Cl3NO
reactant | 4-methyl-3H-benzoxazol-2-one | 11.0 mmol, 1.80 g | CC1=CC=CC2=C1NC(O2)=O | C8H7NO2
reactant | aluminium trichloride | 71.0 mmol, 9.47 g | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(2,6-dichloro-pyridine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one | ClC1=NC(=CC(=C1)C(=O)C1=CC2=C(NC(O2)=O)C(=C1)C)Cl | C14H8Cl2N2O3
